US06002008
4-(3-Dimethylaminophenylamino)-6-nitroquinoline-3-carbonitrile
Prepared from 5.00 g of 4-chloro-6-nitroquinoline-3-carbonitrile, 5.38 g of 3-dimethylaminoaniline dihydrochloride and 5.17 g of triethylamine in the same manner as Example 377. The crude product was taken up in EtOAc, treated with Darco, filtered through Celite, evaporated and dried in vacuo (50° C.). The yield of 4-(3-dimethylaminophenylamino)-6-nitroquinoline-3-carbonitrile was 5.62 g as brick red crystals: mass spectrum (electrospray, m/e): M+H 334.2.

reactant | 4-chloro-6-nitroquinoline-3-carbonitrile | 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-dimethylaminoaniline dihydrochloride | 5.38 g | Cl.Cl.CN(C=1C=C(N)C=CC1)C
reactant | triethylamine | 5.17 g | C(C)N(CC)CC | C6H15N
reactant | Darco | C | CH4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-Dimethylaminophenylamino)-6-nitroquinoline-3-carbonitrile | CN(C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N)C | C18H15N5O2
